US08110585B2
(5-bromo-2-methyl-2H-indazol-4-yl)methanol
To a suspension of lithium aluminum hydride (152 mg, 4.00 mmol) in tetrahydrofuran (15 mL) was added a solution of methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate (534 mg, 2.00 mmol) in tetrahydrofuran (5 mL) at 0° C., and the mixture was stirred at room temperature for 15 min. To the reaction solution was added sodium sulfate decahydrate (1.5 g), and the mixture was stirred for 15 min and filtered through celite. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=40/60→80/20) to give the title compound (351 mg, yield 73%).

reactant | lithium aluminum hydride | 4.00 mmol, 152 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5-bromo-2-methyl-2H-indazole-4-carboxylate | 2.00 mmol, 534 mg | BrC1=C(C2=CN(N=C2C=C1)C)C(=O)OC | C10H9BrN2O2
reactant | sodium sulfate decahydrate | 1.5 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (5-bromo-2-methyl-2H-indazol-4-yl)methanol | 351 mg, yield 73% | BrC1=C(C2=CN(N=C2C=C1)C)CO | C9H9BrN2O
